US04904664
Potassium cyanide (0.32 g) was added to a cooled (5° C.) solution of 6-[4-(3-dimethylamino-2-methylpropionyl)phenyl]pyridazin-3(2H)-one hydrochloride (1.28 g) and acetic acid (0.25 ml) in water (30 ml). The solution was stirred for 2 hours at less than 23° C., then cooled and a further amount of potassium cyanide (0.32 g) was added. After stirring for one hour the temperature was raised to 50° C. and the reaction mixture was stirred for 2 hours to afford 6-[4-(3-cyano-2-methylpropionyl)phenyl]pyridazin-3(2H)-one (0.61 g), m.p. 196°-201° C. (dec), ν(C=N) 2240 cm-1.

reactant | Potassium cyanide | 0.32 g | [C-]#N.[K+]
reactant | 6-[4-(3-dimethylamino-2-methylpropionyl)phenyl]pyridazin-3(2H)-one hydrochloride | 1.28 g | Cl.CN(CC(C(=O)C1=CC=C(C=C1)C=1C=CC(NN1)=O)C)C
reactant | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
reactant | potassium cyanide | 0.32 g | [C-]#N.[K+]
solvent | water | 30 ml | O | H2O
product | 6-[4-(3-cyano-2-methylpropionyl)phenyl]pyridazin-3(2H)-one | 0.61 g | C(#N)CC(C(=O)C1=CC=C(C=C1)C=1C=CC(NN1)=O)C | C15H13N3O2
